US09062092B2
Compound 45d. 2-Vinyl-morpholine-2,4-dicarboxylic acid 4-tert-butyl ester 2-methyl ester
A warm (35° C.) solution of 2-(1-trifluoromethanesulfonyloxy-ethyl)-morpholine-2,4-dicarboxylic acid 4-tert-butyl ester 2-methyl ester (1.384 g, 3.284 mmol) in dichloromethane (40 mL) was treated with 1,8-diazabicyclo[5.4.0]undec-7-ene (2.5 mL, 16.422 mmol). After stirring at 35° C. for 2 h, the reaction was cooled to 0° C. and quenched with hydrochloric acid (1 M, 50 mL). The aqueous layer was extracted with dichloromethane. The organics were combined, filtered through a phase separator and the volatiles were removed in vacuo to provide the title compound as an orange oil which was used without further purification in the next step. 1H NMR (300 MHz, CDCl3) δ 1.49 (s, 9H), 3.13-3.29 (m, 2H), 3.60-3.73 (m, 1H), 3.79 (s, 3H), 3.83-3.92 (m, 2H), 4.24 (d, J=13.1 Hz, 1H), 5.37 (d, J=10.9 Hz, 1H), 5.55 (d, J=17.4 Hz, 1H), 5.84 (dd, J=17.4, 10.9 Hz, 1H).

reactant | 2-(1-trifluoromethanesulfonyloxy-ethyl)-morpholine-2,4-dicarboxylic acid 4-tert-butyl ester 2-methyl ester | 3.284 mmol, 1.384 g | COC(=O)C1(CN(CCO1)C(=O)OC(C)(C)C)C(C)OS(=O)(=O)C(F)(F)F | C14H22F3NO8S
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 16.422 mmol, 2.5 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 2-Vinyl-morpholine-2,4-dicarboxylic acid 4-tert-butyl ester 2-methyl ester | COC(=O)C1(CN(CCO1)C(=O)OC(C)(C)C)C=C | C13H21NO5
